US05719296
Preparation of EtOCO-Cha-N(OMe)Me (16):
To 0.5 mL CH2Cl2 was added 48.6 mg (200 μmole) of EtOCO-Cha, 34.8 μL (200 μmole) DIEA, and 88.4 mg (200 μmole) BOP. After 3 min, 19.4 mg (200 μmole) N,O-dimethyl-hydroxylamine.HCl and 34.8 μL (200 μmole) DIEA were added. The reaction was monitored by TLC, and after 90 min it was diluted with CH2Cl2, washed 2× with dilute HCl and 2× with saturated NaHCO3. The organic layer was dried with Na2SO4, filtered, and the filtrate evaporated by rotary evaporation to give the title compound. NMR (300 MHz, CDCl3): a 4.72 (br m, Cha-α, 1H), 4.04 (q, CH3CH2OCO, 2H), 3.72 (s, N(CH3)OCH3, 3H), 3.13 (s, N(CH3)OCH3, 3H), 1.17 (t, CH3CH2OCO, 3H).

reactant | EtOCO-Cha | 200 μmole, 48.6 mg | C(C)OC(=O)N[C@@H](CC1CCCCC1)C(=O)O | C12H21NO4
reactant | DIEA | 200 μmole, 34.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 200 μmole, 88.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,O-dimethyl-hydroxylamine | 200 μmole, 19.4 mg | CNOC | C2H7NO
reactant | HCl | Cl | ClH
reactant | DIEA | 200 μmole, 34.8 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | EtOCO-Cha-N(OMe)Me | C(C)OC(=O)N[C@@H](CC1CCCCC1)C(=O)N(OC)C | C14H26N2O4
